US07358370B2
2-(2-Cyclopropyl-acetyl)-5,5-dimethyl-cyclohexane-1,3-dione (111.1 mg, 0.5 mmol) and 4-cyanophenylhydrazine hydrochloride (84.8 mg, 0.5 mmol, 1.0 eq) were suspended in 4 mL of 3:1 EtOH:AcOH and microwaved at 100° C. for 10 minutes. The solvent was removed in vacuo and the resultant residue purified by column chromatography to yield 81.8 mg (51% yield) of 4-(3-Cyclopropylmethyl-6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-benzonitrile as an off-white powder.

reactant | 2-(2-Cyclopropyl-acetyl)-5,5-dimethyl-cyclohexane-1,3-dione | 0.5 mmol, 111.1 mg | C1(CC1)CC(=O)C1C(CC(CC1=O)(C)C)=O | C13H18O3
reactant | 4-cyanophenylhydrazine hydrochloride | 0.5 mmol, 84.8 mg, 1.0 eq | Cl.C(#N)C1=CC=C(C=C1)NN
reactant | AcOH | CC(=O)O | C2H4O2
solvent | EtOH | 4 mL | CCO | C2H6O
product | 4-(3-Cyclopropylmethyl-6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-indazol-1-yl)-benzonitrile | 81.8 mg, 51% yield | C1(CC1)CC1=NN(C=2CC(CC(C12)=O)(C)C)C1=CC=C(C#N)C=C1 | C20H21N3O
